US08729117B2
To a 2 L round bottom flask with magnetic stirrer, thermocouple, and ice water bath was added (3-formyl-4-hydroxyphenyl)acetic acid methyl ester (308 g, 1.59 mol) and N,N-dimethylformamide (1 L). The reaction mixture was stirred and cooled to −5 to 5° C. A solution of N-bromosuccinimide (311 g, 1.75 mol) in DMF (1.5 to 2 L) was added dropwise, at such a rate to keep the internal temperature between 5 and 10° C. Once the addition was complete, the reaction mixture was allowed to warm to room temperature and monitored for completion by HPLC analysis. The reaction time was about 4 h. The reaction mixture was diluted with isopropylacetate (3 L), and the resulting solution was extracted with water to remove the DMF. Concentration of the organic phase afforded a reddish solid that was dissolved in hot isopropanol (400 mL) and allowed to cool while stirring. The resulting off-white crystalline product was filtered and washed with cold IPA (−20° C.; 400 mL) to yield methyl (3-bromo-5-formyl-4-hydroxyphenyl)acetate (368 g, 84.7%) as off-white crystals.

reactant | (3-formyl-4-hydroxyphenyl)acetic acid methyl ester | 1.59 mol, 308 g | COC(CC1=CC(=C(C=C1)O)C=O)=O | C10H10O4
reactant | N-bromosuccinimide | 1.75 mol, 311 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 1.5 to 2 L | CN(C)C=O | C3H7NO
solvent | isopropylacetate | 3 L | C(C)(C)OC(C)=O | C5H10O2
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
solvent | N,N-dimethylformamide | 1 L | CN(C=O)C | C3H7NO
product | methyl (3-bromo-5-formyl-4-hydroxyphenyl)acetate | 368 g, 84.7% | BrC=1C=C(C=C(C1O)C=O)CC(=O)OC | C10H9BrO4
